US05599832
Preparation of 5-Bromo-2-(trifluoromethyl)indole-3-carbonitrile
A solution of 3-cyano-2-(trifluoromethyl)indole (1.05 g, 5.0 mmole) in acetic acid is treated with Br2 (0.6 mL, 6.0 mmole) at room temperature, and stirred until reaction is complete by TLC. The reaction mixture is worked up as described in Example 22 to afford the title product as a white solid after chromatography (silica gel and 4:1 hexanes:ethyl acetate) and crystallization, 0.95 g (65% yield), mp 188°-191.5° C., identified by IR, 1HNMR, 19FNMR and mass spectral analyses.

reactant | 3-cyano-2-(trifluoromethyl)indole | 5.0 mmole, 1.05 g | C(#N)C1=C(NC2=CC=CC=C12)C(F)(F)F | C10H5F3N2
reactant | Br2 | 6.0 mmole, 0.6 mL | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-(trifluoromethyl)indole-3-carbonitrile | 65% yield | BrC=1C=C2C(=C(NC2=CC1)C(F)(F)F)C#N | C10H4BrF3N2
